US08859573B2
3-pyridinethanol
To a solution of pyridin-3-yl-acetic acid ethyl ester (33 g, 197.36 mmol) in methanol (400 mL) was added sodium borohydride (74.66 g, 1.9 mole). The reaction mixture was refluxed for 12 h, then cooled to rt, quenched with water (300 mL), concentrated. The residue was extracted with DCM (500 mL), dried over sodium sulfate, concentrated to afford the title product (20.76 g).

reactant | pyridin-3-yl-acetic acid ethyl ester | 197.36 mmol, 33 g | C(C)OC(CC=1C=NC=CC1)=O | C9H11NO2
reactant | sodium borohydride | 1.9 mole, 74.66 g | [BH4-].[Na+]
solvent | methanol | 400 mL | CO | CH4O
product | 3-pyridinethanol | 20.76 g | N1=CC(=CC=C1)CCO | C7H9NO
